US06410555B1
N-(5,6,7,8-Tetrahydro-6,8,8-trimethyl[1,6]naphthyridin-3-yl)benzamide Hydrochloride
3-Amino-5,6,7,8-tetrahydro-6,8,8-trimethyl[1,6]naphthyridine (96 mg; 0.50 mmol) was dissolved in dry THF (5 ml) and the solution treated with benzoyl chloride (70.3 mg; 0.50 mmol). The mixture was stirred at ambient temperature for 2 h then the precipitate collected by filtration, washed with THF, diethyl ether and dried in vacuo (132 mg; 80%).

reactant | 3-Amino-5,6,7,8-tetrahydro-6,8,8-trimethyl[1,6]naphthyridine | 0.50 mmol, 96 mg | NC=1C=NC=2C(CN(CC2C1)C)(C)C | C11H17N3
reactant | benzoyl chloride | 0.50 mmol, 70.3 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | N-(5,6,7,8-Tetrahydro-6,8,8-trimethyl[1,6]naphthyridin-3-yl)benzamide Hydrochloride | Cl.CN1CC=2C=C(C=NC2C(C1)(C)C)NC(C1=CC=CC=C1)=O | InChI=1S/C18H21N3O.ClH/c1-18(2)12-21(3)11-14-9-15(10-19-16(14)18)20-17(22)13-7-5-4-6-8-13;/h4-10H,11-12H2,1-3H3,(H,20,22);1H
